* C:\Users\Brad Williams\Desktop\UltimateAltium\ADC_test0\TMP235_Sim.asc
V§TMP235 N002 0 0
XU1 N001 N003 5V 0 OUT OP284
V§5PV 5V 0 5
R1 OUT N003 6.5k
R2 0 N003 10k
R3 N001 N002 10K
C1 N001 0 1µF
.dc TMP235 0.1 2.0 0.05
* ADC
.lib ADI1.lib
.backanno
.end
